US05492925
Preparation of 2-(3,4,5-Trichloro-2-thienyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile
Acetonitrile (0.97 g, 23.7 mmol) is added dropwise to a solution of lithium diisopropylamide (two molar in hydrocarbons, 10.9 mL, 21.8 mmol) in tetrahydrofuran at -78° C. The reaction mixture is stirred at -78° C. for 30 minutes, treated with a solution of 3,4,5-trichloro-2-thiophenecarbonitrile (3.87 g, 18.2 mmol) in tetrahydrofuran, stirred for 30 minutes at -78° C., warmed to room temperature over 45 minutes, quenched with saturated ammonium chloride solution and extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated in vacuo to obtain a red solid. A mixture of the red solid and 1-bromo-3,3,3-trifluoroacetone (1.95 mL, 18.7 mmol) in acetic acid is refluxed for three hours and 30 minutes, diluted with water and extracted with ether. The combined organic extracts are washed sequentially with water and brine, dried over MgSO4 and concentrated .in vacuo to obtain a red solid. Flash chromatography of the solid using silica gel and a 15% ethyl acetate in hexane solution gives the title product as a white solid (0.49 g, 7.8%, mp 220°-221° C.).

reactant | Acetonitrile | 23.7 mmol, 0.97 g | C(C)#N | C2H3N
reactant | lithium diisopropylamide | 21.8 mmol, two molar, 10.9 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3,4,5-trichloro-2-thiophenecarbonitrile | 18.2 mmol, 3.87 g | ClC1=C(SC(=C1Cl)Cl)C#N | C5Cl3NS
reactant | 1-bromo-3,3,3-trifluoroacetone | 18.7 mmol, 1.95 mL | BrCC(=O)C(F)(F)F | C3H2BrF3O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3,4,5-Trichloro-2-thienyl)-5-(trifluoromethyl) pyrrole-3-carbonitrile | 0.49 g, 7.8% | ClC1=C(SC(=C1Cl)Cl)C=1NC(=CC1C#N)C(F)(F)F | C10H2Cl3F3N2S
